Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Captopril / Aggrenox
 
Attending: ___.
 
Chief Complaint:
Falls
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ female with a history of CVA (___) w/ L-sided
deficits, hypertension, hyperlipidemia, arrhythmia status post
ablation ___, OCD and depression, presenting with fall.
Patient was walking in her bedroom, states that her left leg 
gave
out and she fell. Called ___ after unable to get up.

Unclear if there was a headstrike, but was noted to have 
bruising
on her left scalp. Patient denies chest pain, dizziness,
shortness of breath. Denies fever or chills, dysuria or cough. 
No
current headache, vomiting, visual symptoms. Patient lives by
herself, does not use a cane when walking inside, does use a 
cane
walking outside.

In the ED, 
Vitals were: 96.5 91 193/88 16 96% RA 
Exam: abrasion to left temple; bruising to left shoulder, left
thigh +L spine tenderness; no rib cage tenderness or 
instability,
no pelvic tenderness; left arm contracted and flexed (baseline)

Labs: Notable for 
    UA w/ Leuk Lg  Bld Tr  Nitr Neg  Prot Tr; RBC 9  WBC 140 
Bact Few  Yeast None  Epi <1    
    CBC 9.0 > 14.6/45.4 < 243 w/ 77% PMN
    BMP wnl
    Coags wnl 
    UCx pending

Studies:
    CT C/T/L spine, left shoulder XR, pelvic/femur XR negative
for frx
        CT Head Stable encephalomalacia of the right MCA
territory.
    EKG, sinus WNL

Patient received: 
    Ceftriaxone 1g x1 on ___ 7 AM

At the bedside, the patient endorses the above history. She is
somewhat distractible and vague historian. She is very clear 
that
her leg catches on things and she suddenly falls, which happens
from time-to-time. She denies palpitations, chest pain, 
pressure,
presyncope, n/v/d, visual symptoms (chronically nearsighted). 

She is quite certain that she has taken no medications in the
past year (no medications showing in the OMR history tab 
supports
this), apart from acetaminophen. She does not have further
insight into why she stopped other than just not wanting to be 
on
them. Her last PCP appointment was "years ago," and she gets her
primary health care at ___.

She declines to provide a health care proxy, saying she needs to
think about whether she would give this responsibility to a
friend of hers and she otherwise has no family in the area.

 
Past Medical History:
-CVA c/b left hemiparesis  
-SVT s/p ablation  
-HTN
-HLD  
-OCD
-Depression  
 
Social History:
___
Family History:
Significant for breast cancer (Mother in ___

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS:24 HR Data (last updated ___ @ 1847)
    Temp: 98.0 (Tm 98.0), BP: 192/98 (116-192/94-98), HR: 93
(81-93), RR: 18, O2 sat: 97%, O2 delivery: Ra  
GENERAL: Alert and interactive. In no acute distress. Somewhat
disheveled appearing
HEENT: EOMI mild left esotropia. Sclera anicteric and without
injection. MM dry. 
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and prominent
S2. No murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: Mild tenderness, ?CVA versus paraspinal muscles
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally. Tender to palpation over the 
SKIN: Warm. There are bruises on the left shoulder and R elbow.
The bilateral feet have very long, tortuous nails and there are
some erosions of the left medial malleolus and left midfoot
suggesting chronic irritation
NEUROLOGIC: AOx3. CN III - XII intact. LUE held in contraction.
___ strentgth in LLE. Chronic left foot drop and chronic
flection of knee. Endorses sensation to light touch. 

Discharge Physical Examination:
===============================
24 HR Data (last updated ___ @ 753)
    Temp: 98.0 (Tm 98.3), BP: 136/71 (134-145/67-73), HR: 83
(72-83), RR: 18 (___), O2 sat: 94% (94-96), O2 delivery: Ra    

GENERAL: Resting comfortably in bed
EYES: Sclera clear, anicteric, PERRL
HENT:  MMM
Neck: no JVD
CV: RRR, normal s1/s2, no MRG 
RESP: CTAB, no wheezes/crackles/rhonci. No accessory muscle 
usage
ABD: Bowel sounds normoactive, soft and NTND. No 
guarding/rebound
tenderness. 
MSK: Left leg with muscular atrophy, no ___ edema
NEURO: CN ___ intact, LUE contractures, ___ strength in LLE<
chronic left foot drop and chronic L flexion of the knee.
Sensation intact bilaterally.

 
Pertinent Results:
Admission Labs:
===============
___ 06:55PM   ALT(SGPT)-11 AST(SGOT)-27 CK(CPK)-221* ALK 
PHOS-74 TOT BILI-0.6
___ 06:55PM   VIT B12-605
___ 06:55PM   TSH-0.63
___ 05:59AM   ___ PTT-31.0 ___
___ 05:10AM URINE  HOURS-RANDOM
___ 05:10AM URINE  UHOLD-HOLD
___ 05:10AM URINE  COLOR-Straw APPEAR-Hazy* SP ___
___ 05:10AM URINE  BLOOD-TR* NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-LG*
___ 05:10AM URINE  RBC-9* WBC-140* BACTERIA-FEW* YEAST-NONE 
EPI-<1
___ 05:10AM URINE  MUCOUS-RARE*
___ 04:35AM   GLUCOSE-119* UREA N-15 CREAT-0.7 SODIUM-140 
POTASSIUM-3.6 CHLORIDE-103 TOTAL CO2-26 ANION GAP-11
___ 04:35AM   estGFR-Using this
___ 04:35AM   cTropnT-<0.01
___ 04:35AM   WBC-9.0 RBC-4.65 HGB-14.6 HCT-45.4* MCV-98 
MCH-31.4 MCHC-32.2 RDW-13.1 RDWSD-47.2*
___ 04:35AM   NEUTS-77.4* LYMPHS-14.6* MONOS-6.1 EOS-1.3 
BASOS-0.3 IM ___ AbsNeut-6.91* AbsLymp-1.31 AbsMono-0.55 
AbsEos-0.12 AbsBaso-0.03
___ 04:35AM   PLT COUNT-243

Pertinent Studies:
==================
___ CT L Spine, C Spine, T Spine 
 

Final Report 
EXAMINATION:  CT T-SPINE W/O CONTRAST; CT C-SPINE W/O CONTRAST; 
CT L-SPINE W/O 
CONTRAST Q321; Q311; Q331 CT SPINE 
  
INDICATION:  History: ___ with spinal tenderness, fall, bruising 
on left 
shoulder and left femur// eval spinal fracture, eval shoulder, 
pelvic/femur 
fracture; eval PTX      eval spinal fracture, eval shoulder, 
pelvic/femur 
fracture; eval PTX 
  
TECHNIQUE:  Non-contrast helical multidetector CT was performed. 
Soft tissue 
and bone algorithm images were generated.  Coronal and sagittal 
reformations 
were then constructed. 
  
DOSE:  Acquisition sequence: 
   1) Spiral Acquisition 8.5 s, 33.3 cm; CTDIvol = 31.2 mGy 
(Body) DLP = 
1,038.4 mGy-cm. 
 Total DLP (Body) = 1,038 mGy-cm.; Acquisition sequence: 
   1) Spiral Acquisition 5.1 s, 20.0 cm; CTDIvol = 22.5 mGy 
(Body) DLP = 451.6 
mGy-cm. 
 Total DLP (Body) = 452 mGy-cm.; Acquisition sequence: 
   1) Spiral Acquisition 7.0 s, 27.5 cm; CTDIvol = 31.0 mGy 
(Body) DLP = 852.4 
mGy-cm. 
 Total DLP (Body) = 852 mGy-cm. 
  
COMPARISON:  None. 
  
FINDINGS:  
  
There is mild mottled and demineralized appearance of the 
vertebral bodies 
diffusely, likely representing osteopenia. 
  
CERVICAL SPINE: 
  
2 mm retrolisthesis of C4 on C5 and C6 on C7 is almost certainly 
degenerative. 
Otherwise, cervical alignment is anatomic.No fractures are 
identified.Multilevel degenerative changes of the cervical spine 
are most 
severe at C5-6 and C6-7 where posterior osteophytes cause 
moderate canal 
stenosis.  Neural foraminal stenosis is most severe on the right 
at C4-5 and 
C5-6 where it is moderate.  Loss of disc height is severe 
spanning C3-C4 
through C6-C7, characterized by vacuum disc phenomenon allowing, 
subcortical 
cystic formation and endplate sclerosis.  There is no 
prevertebral soft tissue 
swelling.There is no cervical lymphadenopathy by size criteria. 
  
There is a 1 cm coarse calcification in the left thyroid lobe. 
  
THORACIC SPINE: 
  
Alignment is anatomic.No fractures are identified.Multilevel 
degenerative 
changes of the thoracic spine are moderate, with loss of disc 
height most 
prominent at T9-10, without high-grade spinal canal or neural 
foraminal 
narrowing.There is no prevertebral soft tissue swelling. 
  
LUMBAR SPINE: 
  
2 mm anterolisthesis of L2 on L3 and stepwise 2 mm 
retrolisthesis of L3 on L4 
and L4 on L5 is almost certainly degenerative.  There is 
dextroconvex 
curvature of the lumbar spine with apex at L3.  Degenerative 5 
mm left lateral 
listhesis of L2 on L3 and 4 mm right lateral listhesis of L3 on 
L4 and L4 on 
L5 is also noted.No acute fractures are identified.Severe 
multilevel 
degenerative changes of the lumbar spine are present.  Severe 
loss of disc 
height with endplate sclerosis, vacuum disc phenomenon and 
subcortical cystic 
change is identified throughout L2-L3 through L5-S1.  Disc bulge 
and 
ligamentum flavum hypertrophy at L4-5 results in moderate canal 
stenosis.There 
is no prevertebral soft tissue swelling.A fibroid uterus is 
noted. Visualized 
prevertebral and paraspinal soft tissues are otherwise 
unremarkable on 
noncontrast examination. 
  
IMPRESSION: 
  
  
1. No fracture or traumatic subluxation in the cervical, 
thoracic or lumbar 
spine. 
2. Multilevel degenerative changes, most prominent in the 
cervical and lumbar 
spine as described above. 
3. Additional findings described above. 
 
___ Gleno-Humeral Shoulder X ray 
Final Report 
EXAMINATION:  DX PELVIS AND FEMUR 
  
INDICATION:  History: ___ with spinal tenderness, fall, bruising 
on left 
shoulder and left femur// eval spinal fracture, eval shoulder, 
pelvic/femur 
fracture; eval PTX 
  
TECHNIQUE:  Frontal view radiograph of the pelvis with 
additional frontal and 
frog-leg lateral views of the left hip/femur. 
  
COMPARISON:  None. 
  
FINDINGS:  
  
There is no fracture or dislocation.  There is are mild left 
greater than 
right hip degenerative changes.  There is no suspicious lytic or 
sclerotic 
lesion.  There is no soft tissue calcification or radio-opaque 
foreign body. 
  
Densely calcified fibroid uterus is re-demonstrated. 
  
IMPRESSION:  
  
No fracture or dislocation. 
  
___ Pelvis/Femur X ray 
Final Report 
EXAMINATION:  DX PELVIS AND FEMUR 
  
INDICATION:  History: ___ with spinal tenderness, fall, bruising 
on left 
shoulder and left femur// eval spinal fracture, eval shoulder, 
pelvic/femur 
fracture; eval PTX 
  
TECHNIQUE:  Frontal view radiograph of the pelvis with 
additional frontal and 
frog-leg lateral views of the left hip/femur. 
  
COMPARISON:  None. 
  
FINDINGS:  
  
There is no fracture or dislocation.  There is are mild left 
greater than 
right hip degenerative changes.  There is no suspicious lytic or 
sclerotic 
lesion.  There is no soft tissue calcification or radio-opaque 
foreign body. 
  
Densely calcified fibroid uterus is re-demonstrated. 
  
IMPRESSION:  
  
No fracture or dislocation. 

CXR ___
 

 

Final Report 
EXAMINATION:  CHEST (SINGLE VIEW) 
  
INDICATION:  History: ___ with spinal tenderness, fall, bruising 
on left 
shoulder and left femur// eval spinal fracture, eval shoulder, 
pelvic/femur 
fracture; eval PTX 
  
TECHNIQUE:  Chest AP 
  
COMPARISON:  None. 
  
FINDINGS:  
  
The patient's right hand is placed over the left hemithorax, and 
obscures the 
evaluation of the lower left lung. 
  
The lungs are moderately well expanded, and no focal 
consolidation is seen. 
Cardiomediastinal silhouette is within normal limits.  No 
pleural effusion or 
pneumothorax is appreciated. 
  
IMPRESSION:  
  
Limited study due to left hand projecting over the left 
hemithorax.  Within 
this limitation, no acute cardiopulmonary abnormality. 

Discharge Labs:
===============
___ 05:22AM BLOOD WBC-3.8* RBC-4.27 Hgb-13.5 Hct-41.7 
MCV-98 MCH-31.6 MCHC-32.4 RDW-13.3 RDWSD-47.4* Plt ___
___ 05:22AM BLOOD Glucose-89 UreaN-11 Creat-0.5 Na-142 
K-3.8 Cl-103 HCO3-24 AnGap-15
___ 05:22AM BLOOD Calcium-9.1 Phos-3.3 Mg-2.3
 
Brief Hospital Course:
Summary:
========
___ yo F pmhx R mca CVA (___) c/b LUE paralysis, SVT s/p 
ablation (___), HTN, and hld here s/p multiple falls admitted 
for management of UTI and rehab placement 

Transitional Issues:
====================
[] Nutrition evaluated the patient and recommended starting 
Ensure Enlive TID. In fact, there was mention of initiating tube 
feeds yet after discussion with her this was not felt to be 
within her goals of care
[] Evaluation on the outpatient basis for age appropriate cancer 
screenings 
[] Uptitration of anti-hypertensives in the outpatient setting 
[] Follow up with podiatry for toenail care 

[] Code status: Full 
[] Contact:___ 
Relationship: friend 
Phone number: ___ 

ACUTE ISSUES:
=============
#Recurrent Falls
The patient was admitted after reporting frequent falls at home. 
Her falling is most likely a multifactorial syndrome of 
instability and weakness in the setting of severe protein 
calorie malnutrition, alcohol use disorder, deconditioning, and 
in the setting of acute infection. Vitamin B12 and TSH were 
within normal limits. Physical therapy, occupational therapy, 
and social work saw the patient while in house who recommended a 
stay in rehab. She was discharged to rehab on ___.

#Alcohol Withdrawal 
On the day of admission the patient admitted to drinking ___ 
alcoholic drinks a day. She was kept on a CIWA scale for 72 
hours but did not score. The patient would benefit from 
counseling regarding alcohol intake.

#UTI
Significant pyuria and bacteriuria in ER on clean catch 
specimen, given her confusion and findings on urinalysis we 
treated UTI despite her lack of urinary symptoms.  Her urinary 
culture was contaminated with mixed genital flora. She completed 
a 3 day course of ceftriaxone ___.

#Acute Metabolic Encephalopathy 
#Toxic metabolic encephalopathy 
Patient appeared confused on day of admission on examination. 
She had multiple reasons to be confused with hypokalemia, active 
infection, and possible baseline cognitive dysfunction. She was 
intermittently agitated although she became increasingly more 
redirectable. Her mental status improved after treatment of her 
infection and correction of her electrolyte abnormalities.

#H/O CVA
MCA stroke ___ (variably reported as L and R in different 
notes, but original MRI from ___ shows perfusion deficit in R 
MCA territory. S/p rehab at ___. Followed by Neurology at 
___ in ___, may have been lost to follow-up or transitioned care 
back to PCP. At time of admission, not taking medications for 
secondary prophylaxis. Given this was not cardioembolic in 
origin and thought to be ischemic, will use single agent 
clopidogrel for anti-platelet, and manage other chronic 
conditions.

#HTN, poorly controlled
On presentation, the patient was hypertensive with SBPs in the 
170s. She was started on amlodipine 5 mg as this was likely 
uncontrolled primary hypertension in the setting of not being on 
medications. Her ekg was without ischemic changes and her BUN 
and Creatinine was normal. 

#HLD
Meets criteria for secondary stroke PPx. Started on 
atorvastatin. 

#H/o Arrhythmia
Per notes this was SVT. Patient has not been on anticoagulation 
for a long time.

**** expected stay less than 30 days ****

 
Medications on Admission:
none
 
Discharge Medications:
1.  amLODIPine 5 mg PO HS  
2.  Atorvastatin 40 mg PO QPM  
3.  Clopidogrel 75 mg PO QPM  
4.  FoLIC Acid 1 mg PO DAILY  
5.  Multivitamins W/minerals 1 TAB PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
==================
1) Urinary Tract Infection
2) Frequent Falls 

Secondary Diagnosis:
====================
1) History of CVA 
2) Hypertension 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
================================================  
MEDICINE Discharge Worksheet  
================================================  
Dear Ms. ___,  
 
It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
-You were admitted to the hospital because you were falling a 
lot at home

What was done for me while I was in the hospital?  
-We found out you had an infection in your urine 
-We gave you medication to treat the infection 
-We were concerned that you were falling a lot at home so we had 
our physical therapists come to see you 

What should I do when I leave the hospital?  
-Please keep all of your follow up appointments 
-Please take all of your medications exactly as prescribed 
 
Sincerely,  
Your ___ Care Team  

 
Followup Instructions:
___